US07659305B2
(2S,4S)-4-(3-chloro-phenoxymethyl)-pyrrolidine-2-carboxylic acid
(2S,4S)-4-(3-chloro-phenoxymethyl)-pyrrolidine-1,2-dicarboxylic acid di-tert-butyl ester (Preparation 46, 67 mg, 0.16 mmol) was dissolved in a solution of anhydrous hydrogen chloride in dioxane (4M, 5 ml) and stirred for 18 hours at room temperature. The solvent was removed under reduced pressure and the residue triturated with ethyl acetate to give the title compound as a white solid hydrochloride salt (13 mg, 27%)

reactant | (2S,4S)-4-(3-chloro-phenoxymethyl)-pyrrolidine-1,2-dicarboxylic acid di-tert-butyl ester | 0.16 mmol, 67 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)COC1=CC(=CC=C1)Cl)C(=O)OC(C)(C)C | C21H30ClNO5
solvent | hydrogen chloride | Cl | ClH
solvent | dioxane | 4M, 5 ml | O1CCOCC1 | C4H8O2
product | (2S,4S)-4-(3-chloro-phenoxymethyl)-pyrrolidine-2-carboxylic acid | ClC=1C=C(OC[C@H]2C[C@H](NC2)C(=O)O)C=CC1 | C12H14ClNO3
